US04511655
Into the same flask as in Example 1, dl-2-allyl-3-hydroxy-3-methyl-4-cyclopentenone (15.2 g), pyridine (15 g) and dichloromethane (150 g) were charged, and chloroacetyl chloride (22.5 g) was dropwise added thereto at a temperature from 10° to 15° C. in 3 hours. Then, stirring was continued at room temperature for 24 hours. To the reaction mixture kept below 10° C., water (50 ml) was added to decompose excess of acetyl chloride. The resulting mixture was treated as in Example 1. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate (10:1) as an eluent to give dl-2-allyl-3-chloroacetyloxy-3-methyl-4-cyclopentenone (20.7 g). Yield, 91%.

reactant | 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone | 15.2 g | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | pyridine | 15 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 22.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | 150 g | ClCCl | CH2Cl2
product | 2-allyl-3-chloroacetyloxy-3-methyl-4-cyclopentenone | 20.7 g | C(C=C)C1C(C=CC1(C)OC(CCl)=O)=O | C11H13ClO3
